US06846819B1
b) 2-(Methylaminomethyl)benzofuran
To a solution of 1.0 M BH3/THF; (30 mL, 30 mmole) at 0° C. was added N-methylbenzofuran-2-carboxamide (1.75 g, 10 mmole). The reaction mixture was allowed to warm to RT, then was heated at reflux overnight. The reaction was cooled to 0° C. and excess methanol was added. The resulting solution was concentrated in vacuo and the residue was purified by flash chromatography on silica gel (3% MeOHICH2Cl2). The tile compound (0.2 g,12%) was obtained as a white solid: MS (ES) m/e 162 (M+H)+.

reactant | BH3/THF | 1.0 M | B.C1CCOC1
reactant | N-methylbenzofuran-2-carboxamide | 10 mmole, 1.75 g | CNC(=O)C=1OC2=C(C1)C=CC=C2 | C10H9NO2
solvent | methanol | CO | CH4O
product | 2-(Methylaminomethyl)benzofuran | 0.2 g, 12% | CNCC=1OC2=C(C1)C=CC=C2 | C10H11NO
